US07985755B2
Step 5: 5-[4-(2-Fluorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine
Cyclization of 2-fluoro-6-[4-(2-fluorobenzyl)cyclohexylmethoxy]benzonitrile (225 mg; 0.66 mmol) and guanidine carbonate (119 mg; 0.66 mmol) was carried out using Method F. Material was purified using ethyl alcohol trituration. Solids were collected by filtration. Title compound was obtained. (130 mg; 52% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.33 (t, J=8.0 Hz, 1H), 7.24 (m, 4H), 7.12 (m, 2H), 6.75 (dd, J=8.4, 0.8 Hz, 1H), 6.51 (d, J=7.6 Hz, 1H), 5.97 (br s, 2H), 3.92 (d, J=5.6 Hz, 2H), 2.52 (d, J=7.2 Hz, 2H), 1.83 (m, 3H), 1.69 (m, 2H), 1.51 (m, 1H), 1.06 (m, 4H). MS m/z (APCI) 381 (M+H)+.

reactant | 2-fluoro-6-[4-(2-fluorobenzyl)cyclohexylmethoxy]benzonitrile | 0.66 mmol, 225 mg | FC1=C(C#N)C(=CC=C1)OCC1CCC(CC1)CC1=C(C=CC=C1)F | C21H21F2NO
reactant | guanidine carbonate | 0.66 mmol, 119 mg | C(O)(O)=O.NC(=N)N
product | 5-[4-(2-Fluorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine | 52% yield | FC1=C(CC2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC=C1 | C22H25FN4O
